US06642228B1
(2-Indol-3-ylethyl)methyl(3-piperidylpropyl)amine Hydrochloride
Using 3-(2-methylaminoethyl)indole (123 mg, 0.70 mmol) and 1-(3-chloropropyl)piperidine hydrochloride (198 mg, 1.0 mmol) instead of 4-(3-indolyl)piperidine and 1-(3-chloropropyl)-3-(4-methoxyphenyl)piperidine hydrochloride respectively, reaction and concentration were carried out in the same procedure as Example 2. The resulting crude product was purified by column chromatography on a silica gel (silica gel NH-DM 1020 produced by Fuji Silysia Chemical Ltd., eluent; hexane:ethyl acetate=1:1) to afford a free form (166 mg) of the title compound as a pale yellow viscous oil. After adding hydrochloric acid/methanol to a solution of the free form in methanol, the mixture was concentrated and was then reprecipitated with methanol/ether to afford the title compound (167 mg, yield: 64%) as a pale yellow crystalline powder.

reactant | 3-(2-methylaminoethyl)indole | 0.70 mmol, 123 mg | CNCCC1=CNC2=CC=CC=C12 | C11H14N2
reactant | 1-(3-chloropropyl)piperidine hydrochloride | 1.0 mmol, 198 mg | Cl.ClCCCN1CCCCC1
reactant | 1-(3-chloropropyl)-3-(4-methoxyphenyl)piperidine hydrochloride | Cl.ClCCCN1CC(CCC1)C1=CC=C(C=C1)OC
product | (2-Indol-3-ylethyl)methyl(3-piperidylpropyl)amine Hydrochloride | 166 mg | Cl.N1C=C(C2=CC=CC=C12)CCN(CCCC1CNCCC1)C | InChI=1S/C19H29N3.ClH/c1-22(12-5-7-16-6-4-11-20-14-16)13-10-17-15-21-19-9-3-2-8-18(17)19;/h2-3,8-9,15-16,20-21H,4-7,10-14H2,1H3;1H
